US04786734
N,N-Dimethyl-2-(phenylmethylthio)-3-pyridinecarboxamide
A solution of 25.0 g (223 mmol) of potassium t-butoxide in 100 ml of dimethylformamide was cooled to 0° C. and 22 ml (186 mmol) of benzyl mercaptan added dropwise at 0° C. After addition was complete, the reaction mixture was allowed to warm to 25° C. and stirred at this temperature for 15 minutes. The reaction mixture was then re-cooled to O° C. and 34.0 g (186 mmol) of N,N-dimethyl-2-(chloro)-3-pyridinecarboxamide added in one portion. After an exotherm to 50° C., the mixture was heated at 80° C. for 1.5 hour. The mixture was cooled, poured into 100 ml of water and extracted with ether. The combined organic extracts were washed twice with water, then brine and dried over sodium sulfate. Concentration gave 19.2 g of a viscous yellow oil. IR (Nujol) 1640 (CONMe2) cm-1.

reactant | potassium t-butoxide | 223 mmol, 25.0 g | CC(C)([O-])C.[K+]
reactant | benzyl mercaptan | 186 mmol, 22 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | N,N-dimethyl-2-(chloro)-3-pyridinecarboxamide | 186 mmol, 34.0 g | CN(C(=O)C=1C(=NC=CC1)Cl)C | C8H9ClN2O
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N,N-Dimethyl-2-(phenylmethylthio)-3-pyridinecarboxamide | 19.2 g | CN(C(=O)C=1C(=NC=CC1)SCC1=CC=CC=C1)C | C15H16N2OS
